US06320050B1
A solution of 3-cyclopentyl-2-(3,4-dimethoxy-phenyl)-propionic acid (0.50 g, 1.79 mmol) in methylene chloride (17.9 mL) cooled to 0° C. was treated with a 2.0M solution of oxalyl chloride in methylene chloride (1.0 mL, 1.97 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (0.39 g, 3.95 mmol) and N,N-diisopropylethylamine (0.76 mL, 4.3 mmol) in tetrahydrofuran (8.98 mL). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh 80/20 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dimethoxy-phenyl)-N-thiazol-2-yl-propionamide (665 mg, 100%) as a pale yellow solid: mp 50-52° C.; EI-HRMS m/e calcd for C19H24N2O3S (M+) 360.1507, found 360.1516.

reactant | 3-cyclopentyl-2-(3,4-dimethoxy-phenyl)-propionic acid | 1.79 mmol, 0.50 g | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)OC)OC | C16H22O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 3.95 mmol, 0.39 g | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 4.3 mmol, 0.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 17.9 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 8.98 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 1.97 mmol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3,4-dimethoxy-phenyl)-N-thiazol-2-yl-propionamide | 665 mg, 100% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)OC)OC | C19H24N2O3S
